US04642313
2.0 g of 2-[2-(4-chlorophenyl)-5-(2-furyl)-4-oxazolyl]acetic acid, 2.02 g of 2-chloro-1-methylpyridinium iodide, 1.47 g of laurylalcohol, 1.60 g of triethylamine and 60 ml of tetrahydrofuran are treated in the same manner as described in Example 27. 2.4 g of lauryl 2-[2-(4-chlorophenyl)-5-(2-furyl)-4-oxazolyl]acetate are obtained. Yield: 77.4%

reactant | 2-[2-(4-chlorophenyl)-5-(2-furyl)-4-oxazolyl]acetic acid | 2.0 g | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)C=1OC=CC1 | C15H10ClNO4
reactant | 2-chloro-1-methylpyridinium iodide | 2.02 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | laurylalcohol | 1.47 g | C(CCCCCCCCCCC)O | C12H26O
reactant | triethylamine | 1.60 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | lauryl 2-[2-(4-chlorophenyl)-5-(2-furyl)-4-oxazolyl]acetate | 2.4 g, Yield: 77.4% | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCCCCCCCCCCCC)C=1OC=CC1 | C27H34ClNO4
